US08232312B2
5-[tert-butoxycarbonylmethyl-(3,5-dichloro-phenylsulphonyl)-amino]-1-methylcarbamoyl-2,3-dihydro-1H-indole-3-carboxylic acid
100 mg methyl 5-[tert-butoxycarbonylmethyl-(3,5-dichloro-phenylsulphonyl)-amino]-1-methylcarbamoyl-2,3-dihydro-1H-indole-3-carboxylate are dissolved in 1.2 ml of tetrahydrofuran, combined with 349 μl of a 1 M solution of lithium hydroxide in water and stirred overnight at ambient temperature. Then the mixture is cooled to 0° C., combined with 350 μl 1 M hydrochloric acid and divided between ethyl acetate and saturated sodium chloride solution. The organic phase is dried on magnesium sulphate and the solvents are eliminated in vacuo. The residue is chromatographed on silica gel (dichloromethane/methanol 20:1).

reactant | methyl 5-[tert-butoxycarbonylmethyl-(3,5-dichloro-phenylsulphonyl)-amino]-1-methylcarbamoyl-2,3-dihydro-1H-indole-3-carboxylate | 100 mg | C(C)(C)(C)OC(=O)CN(C=1C=C2C(CN(C2=CC1)C(NC)=O)C(=O)OC)S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C24H27Cl2N3O7S
reactant | lithium hydroxide | [OH-].[Li+]
reactant | hydrochloric acid | 1 M, 350 μl | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 1.2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[tert-butoxycarbonylmethyl-(3,5-dichloro-phenylsulphonyl)-amino]-1-methylcarbamoyl-2,3-dihydro-1H-indole-3-carboxylic acid | C(C)(C)(C)OC(=O)CN(C=1C=C2C(CN(C2=CC1)C(NC)=O)C(=O)O)S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C23H25Cl2N3O7S
